datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([S:10][H:16])[C:11](=[S:12])[H:17])([H:13])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:13])([H:14])[H:15])([S:10][H:16])[C:11](=[S:12])[H:17],177.192
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[H:8]>>[C:0](=[C:1]([C:2]([O:3])([H:7])[H:8])[H:6])([H:4])[H:5],19.2464
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:22])([H:23])[H:24]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30],13.8072
[S:0][H:1].[S:2][S:3][H:4]>>[S:0]([H:1])[H:4].[S:2][S:3],-4.62332
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[S:10][H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:8]([C:7](=[C:6]([H:11])[H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[S:10][H:17],124.265
[C:6]([H:7])([H:8])[H:9].[N:0]([N:1]([H:4])[H:5])([H:2])[H:3]>>[H:2][C:6]([H:7])([H:8])[H:9].[N:0]([N:1]([H:4])[H:5])[H:3],22.3007
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])[C:23]([C:22]([H:25])([H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])([H:10])([H:11])[H:12],20.5853
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:23]([C:22](=[C:21]([H:25])[H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:11])([H:9])[H:10],44.8106
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][H:27]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:8])([H:9])[H:10].[H:11][O:26][H:27],-2.4898984
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:11][O:17][O:18][C:19](=[O:20])[H:21],85.52096
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[C:11]([H:17])[H:18])[H:16])[H:15],71.2535
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[S:14][S:15][H:16]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])[H:8])[H:7])([H:5])[H:6].[H:9][S:14][S:15][H:16],2.13384
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([C:21]([O:22][O:23])([H:33])[H:34])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:23][O:22][C:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])([H:33])[H:34],85.47912
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10](=[S:11])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9]([C:10](=[S:11])[H:14])([H:12])[H:13],96.6504
[C:0]([C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][O:7][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[C:5]([O:6])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7][H:17],179.912
[C:1]1([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]2([C:12]([H:13])=[C:14]([H:15])[C:16]([H:17])=[C:18]2[H:20])[C:21]1[H:23]>>[C:1]1([H:3])[C:4]([H:5])=[C:6]([H:7])[C:10]23[C:8]([H:9])=[C:12]([H:13])[C:14]([H:15])=[C:16]([H:17])[C:18]2([H:20])[C:21]13[H:23],49.7896
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:8])([H:9])[H:16],87.4456
